US07960552B2
To a solution of [3-{[(1,1-dimethylethyl)oxy]methyl}-5-(1-methylethyl)-4-isoxazolyl]methanol (407 mg, 1.79 mmol), methyl 6-(4-hydroxyphenyl)-2-quinolinecarboxylate (500 mg, 1.79 mmol) and triphenylphosphine (517 mg, 1.97 mmol) in dichloromethane (4 mL) was added diisopropyl azodicarboxylate (0.354 mL, 1.97 mmol) dropwise. The solution was heated in a microwave reactor at 100° C. for 10 minutes and then adsorbed onto silica gel and purified by chromatography (silica gel, 0-40% ethyl acetate in hexanes gradient elution) to afford a solid which was dissolved in dichloromethane (114 mL). Trifluoroacetic acid (114 mL, 1.48 mol) was added at a rapid pace. The mixture was stirred for approximately 1.5 hours and then concentrated. The residue was taken up with ethyl acetate and poured into water. Then solid sodium carbonate was added until the pH was between 9 and 10. The layers were separated and the ethyl acetate layer was dried over magnesium sulfate and concentrated. The resulting solid was washed with ether to afford methyl 6-[4-({[3-(hydroxymethyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylate (545 mg, 54%). 1H-NMR (400 MHz, DMSO-d6) δ 8.57 (d, J=9 Hz, 1H), 8.33 (s, 1H), 8.18 (s, 2H), 8.12 (d, J=9 Hz, 1H), 7.83 (d, J=9 Hz, 2H), 7.17 (d, J=9 Hz, 2H), 5.46 (br s, 1H), 5.06 (s, 2H), 4.54 (s, 2H), 3.94 (s, 3H), 3.33 (septet, J=7 Hz, 1H), 1.24 (d, J=7 Hz, 6H). LRMS (ESI) m/z 433 (M+H)+.

reactant | [3-{[(1,1-dimethylethyl)oxy]methyl}-5-(1-methylethyl)-4-isoxazolyl]methanol | 1.79 mmol, 407 mg | CC(C)(C)OCC1=NOC(=C1CO)C(C)C | C12H21NO3
reactant | methyl 6-(4-hydroxyphenyl)-2-quinolinecarboxylate | 1.79 mmol, 500 mg | OC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)OC | C17H13NO3
reactant | triphenylphosphine | 1.97 mmol, 517 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 1.97 mmol, 0.354 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | Trifluoroacetic acid | 1.48 mol, 114 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 114 mL | ClCCl | CH2Cl2
product | methyl 6-[4-({[3-(hydroxymethyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylate | 545 mg, 54% | OCC1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)OC)C(C)C | C25H24N2O5
